US07709483B2
(c) 1-Oxo-1,2,3,4-tetrahydro-7-isoquinolinecarbaldehyde
To a solution of 7-ethenyl-3,4-dihydro-1(2H)-isoquinolinone (232 mg, 1.341 mmol) in 1,4-dioxane (15 ml) and water (3 ml) at 0° C. was added sodium periodate (660 mg, 3.08 mmol) and osmium tetroxide (1.5 ml of a 4% aqueous solution). The reaction mixture was warmed to room temperature and stirred for 0.5 h before evaporation of the reaction mixture. The residue was dissolved in 1,4-dioxane (50 ml) and evaporated again. The mixture was then dissolved in dichloromethane (100 ml), dried with magnesium sulphate and evaporated. Chromatography on silica, eluting with 0-100% ethyl acetate/hexane, gave the product (133 mg, 57%).

reactant | 7-ethenyl-3,4-dihydro-1(2H)-isoquinolinone | 1.341 mmol, 232 mg | C(=C)C1=CC=C2CCNC(C2=C1)=O | C11H11NO
reactant | sodium periodate | 3.08 mmol, 660 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 3 ml | O | H2O
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 1-Oxo-1,2,3,4-tetrahydro-7-isoquinolinecarbaldehyde | 133 mg, 57% | O=C1NCCC2=CC=C(C=C12)C=O | C10H9NO2
